US05302718
Ethyl 4-fluoro-2-hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoate
Ethyl 4-fluoro-2-hydroxy-5-iodobenzoate (3.6 g, 80%, 10 mmol), 4-ethynyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide (2.7 g, 10 mmol) and triethylamine (5 g, 50 mmol) were suspended in tetrahydrofuran (20 ml) and the mixture heated to 50° C. Dichlorobis(triphenylphosphine)palladium (45 mg, 0.06 mmol) and copper(I)iodide (76 mg, 0.4 mmol) were added with stirring. After about 15 min a practically clear solution had formed. After 3 h at 50° C. the solution was taken to dryness and triturated with isobutylmethylketone and dilute hydrochloric acid. The organic phase was separated and the solvent evaporated. The oily residue was triturated with a small amount of acetonitrile to form crystals. These were recrystallized from acetic acid. The product was dissolved in a small amount of chloroform and the solution applied on top of a short silica gel column and eluted with 25% isobutylmethylketone in toluene. The pure product resulted after evaporation of the solvent Yield 2.0 g, 44%.

reactant | Ethyl 4-fluoro-2-hydroxy-5-iodobenzoate | 10 mmol, 3.6 g | FC1=CC(=C(C(=O)OCC)C=C1I)O | C9H8FIO3
reactant | 4-ethynyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide | 10 mmol, 2.7 g | C(#C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C14H12N2O2S
reactant | triethylamine | 50 mmol, 5 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.06 mmol, 45 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)iodide | 0.4 mmol, 76 mg | [Cu]I
product | Ethyl 4-fluoro-2-hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoate | FC1=CC(=C(C(=O)OCC)C=C1C#CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C)O | C23H19FN2O5S
